US04278681
A solution of 21.9 g (0.15 mol) of L-lysine, 20 ml of pyridine, and 20 ml of water was stirred at room temperature and 40 ml (0.41 mol) of acetic anhydride was added during a 2 hour period. The resulting solution was stirred overnight at room temperature. Another 20 ml of acetic anhydride were added and the solution heated at 40° C. for 3 hours to complete the reaction and the reaction mixture was evaporated to a syrup. The crude product was purified by passing a water solution over a column of 80 g of Amerlite IR-120 resin and eluting with 1500 ml of water. The water was evaporated and the residue crystallized from acetone to afford 15.7 g of N,N'-diacetyl-DL-lysine, mp 138°-139° C. A second crop of 10.3 g, mp 138°-139° C. was obtained from acetoneacetonitrile.

reactant | L-lysine | 0.15 mol, 21.9 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.41 mol, 40 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 20 ml | O | H2O
product | N,N'-diacetyl-DL-lysine | 15.7 g | C(C)(=O)NC(CCCCNC(C)=O)C(=O)O | C10H18N2O4
